US04075001
A mixture containing 60 g of 3-amino-2-cyano-3-(ethylmethylamino)propenethioamide and 250 ml of ethanol was heated to reflux, while 40 ml of 30% hydrogen peroxide (11.1 g of active H2O2) were added dropwise at such a rate as to maintain an even reflux. After the peroxide addition was completed, the reaction mixture was heated for 30 minutes. Charcoal was added to the hot solution. The charcoal was removed by filtration and the filtrate was evaporated under reduced pressure. The residue was recrystallized from toluene to yield 51 g of 5-amino-4-cyano-3-(ethylmethylamino)isothiazole, mp 94°-95°. The ir and nmr spectra were consistent with the assigned structure.

reactant | 3-amino-2-cyano-3-(ethylmethylamino)propenethioamide | 60 g | NC(=C(C(N)=S)C#N)N(C)CC | C7H12N4S
reactant | hydrogen peroxide | 40 ml, 11.1 g | OO | H2O2
reactant | Charcoal | C | CH4
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 5-amino-4-cyano-3-(ethylmethylamino)isothiazole | 51 g | NC1=C(C(=NS1)N(C)CC)C#N | C7H10N4S
